US05245039
A suspension of 2-methylthiomethyl-6-methyl-4-(3-nitrophenyl)-3-carboethoxy-5-carboallyloxy-1,4-dihydropyridine (g 0.27), palladium on charcoal (10% 6 mg), ammonium formate (mg 71) and triphenylphosphine (mg 3) in anhydrous 1,4-dioxane, is heated at the reflux temperature for 8 hours. The reaction mixture is cooled at room temperature, poured into an aqueous solution of hydrochloric acid (pH=2) and extracted with ethyl acetate (2×20 ml). The combined organic extracts are washed with aqueous sodium carbonate (1N; 3×10 l), the basic washings are collected, acidified to pH 5-6 with diluted aqueous hydrochloric acid. The resulting suspension is extracted with ethyl acetate (2×25 ml) the combined organic extracts are dried on Na2SO4 and evaporated under reduced pressure to give mg 160 of 5-carboxy-2-methylthiomethyl-6-methyl-4-(3-nitrophenyl)-3-carboethoxy-1,4-dihydropyridine as an amorphous solid.

reactant | 2-methylthiomethyl-6-methyl-4-(3-nitrophenyl)-3-carboethoxy-5-carboallyloxy-1,4-dihydropyridine | CSCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC=C)C | C21H24N2O6S
reactant | ammonium formate | C(=O)[O-].[NH4+]
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | pH=2 | Cl | ClH
catalyst | palladium on charcoal | 6 mg | [Pd] | Pd
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5-carboxy-2-methylthiomethyl-6-methyl-4-(3-nitrophenyl)-3-carboethoxy-1,4-dihydropyridine | C(=O)(O)C=1C(C(=C(NC1C)CSC)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-] | C18H20N2O6S
